US05344845
8.1 g of 4-acetoxy-3-methoxycinnamoyl chloride and 15 g of 4-piperidinecarboxylic acid were added to 200 ml of saturated aqueous potassium carbonate. The solution was stirred for 4 hours at room temperature. After reaction, 2N hydrochloric acid was added to the reaction solution, acidifying the solution. 50 ml of ethyl acetate was added to the solution, and the solution was stirred for 1 hour. The crystal precipitated was filtered out and recrystallized from ethyl acetate/hexane, yielding 5.4 g of 1-(4-hydroxy-3-methoxycinnamoyl)piperidine-4-carboxylic acid (a compound of the present invention) as white crystal, which had the following physiochemical properties:

reactant | 4-acetoxy-3-methoxycinnamoyl chloride | 8.1 g | C(C)(=O)OC1=C(C=C(C=CC(=O)Cl)C=C1)OC | C12H11ClO4
reactant | 4-piperidinecarboxylic acid | 15 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-hydroxy-3-methoxycinnamoyl)piperidine-4-carboxylic acid | 5.4 g | OC1=C(C=C(C=CC(=O)N2CCC(CC2)C(=O)O)C=C1)OC | C16H19NO5
